US07935688B2
(1) Synthesis of 4-{1-ethyl-1-[3-methyl-4-((E)-4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butenyl)-phenyl]-propyl}-2-methyl-phenol
Sodium bis(2-methoxyethoxy)aluminum hydride (65 wt % solution in toluene, 17 mL, 56.74 mmol) was added to a solution of 4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenol (Example 25-(1); 8.67 g, 18.91 mmol) in tetrahydrofuran (100 mL) in a nitrogen atmosphere at 0° C., and the mixture was stirred at 0° C. for one hour. The reaction mixture was then poured into 1 N hydrochloric acid aqueous solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=10:1 and 4:1) to give the target product as a colorless oil (6.11 g, 70%).

reactant | Sodium bis(2-methoxyethoxy)aluminum hydride | 56.74 mmol, 17 mL | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
reactant | 4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenol | 18.91 mmol, 8.67 g | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)O)C)C1=CC(=C(C=C1)O)C | C24H24F6O2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-{1-ethyl-1-[3-methyl-4-((E)-4,4,4-trifluoro-3-hydroxy-3-trifluoromethyl-1-butenyl)-phenyl]-propyl}-2-methyl-phenol | 6.11 g, 70% | C(C)C(CC)(C1=CC(=C(C=C1)\C=C\C(C(F)(F)F)(C(F)(F)F)O)C)C1=CC(=C(C=C1)O)C | C24H26F6O2
